US04578503
Into a mixture of sodium hydride (0.36 g, 15 mmol) and N,N-dimethylformamide (5 ml), a solution of dimethyl(trifluoromethyl)malonate (2.00 g, 10 mmol) in N,N-dimethylformamide (5 ml) was added dropwise with cooling the vessel in an ice-bath. After being stirred for 2 h at room temperature, the reaction mixture was poured into dilute aqueous HCl, and worked up as usual. Distillation under vacuum gave tetramethyl 2,4,4,4-tetrafluoro-1-butene-1,1,3,3-tetra-carboxylate (1.27 g, 70%), b.p. 122°-124° C./0.3 mmHg. Found: C: 40.74; H: 3.53%. Calcd.for C8H12O8F4 : C: 40.01; H: 3.36%. 19F NMR: δ--15.1 (d. CF3), +10.7 (q, =CF--). 1H NMR: δ 3.77 (s, CH3), 3.87 (s, CH3), 3.90 (COCH3)). IR: 1665 (C=C), 1750 (C=O) cm-1

reactant | sodium hydride | 15 mmol, 0.36 g | [H-].[Na+]
reactant | dimethyl(trifluoromethyl)malonate | 10 mmol, 2.00 g | COC(C(C(=O)OC)C(F)(F)F)=O | C6H7F3O4
reactant | HCl | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tetramethyl 2,4,4,4-tetrafluoro-1-butene-1,1,3,3-tetra-carboxylate | 1.27 g, 70% | FC(=C(C(=O)OC)C(=O)OC)C(C(F)(F)F)(C(=O)OC)C(=O)OC | C12H12F4O8
